US06936602B1
To a solution of methyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (300 mg) and 3-furaldehyde (378 mg) in 1,2-dichloroethane (10 ml) was added sodium triacetoxyborohydride (416 mg), and the mixture was stirred under nitrogen atmosphere at room temperature overnight. Then, water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to give methyl 1-(3-furylmethyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (362 mg) as yellow oil.

reactant | methyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 300 mg | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C23H27NO4
reactant | 3-furaldehyde | 378 mg | O1C=C(C=C1)C=O | C5H4O2
reactant | sodium triacetoxyborohydride | 416 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | methyl 1-(3-furylmethyl)-7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 362 mg | O1C=C(C=C1)CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C28H31NO5
